US06534531B2
Ethyl isonipecotate (3.2 g, 20 mmol, 1 eq) was combined with acetone (5.8 g, 100 mmol, 5 eq), sodium triacetoxyborohydride (10.5 g, 50 mmol, 2.5 eq) and 1,2-dichloroethane (200 mL). The reaction mixture was stirred at rt for 72 h. Saturated aqueous NaHCO3 was added, and the mixture was extracted with CH2Cl2. The organic extracts were dried, filtered through a silica gel pad, and concentrated in vacuo to provide 3.72 g (93%) of ethyl 1-(1-methylethyl)-4-piperidine carboxylate as a colorless liquid.

reactant | Ethyl isonipecotate | 20 mmol, 3.2 g, 1 eq | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | acetone | 100 mmol, 5.8 g, 5 eq | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 50 mmol, 10.5 g, 2.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | ethyl 1-(1-methylethyl)-4-piperidine carboxylate | 3.72 g, 93% | CC(C)N1CCC(CC1)C(=O)OCC | C11H21NO2
